US04988687
500 ml of an aqueous solution containing 48 g (1.2 mol) of sodium hydroxide was dropwise added to a suspension of 88 g (0.8 mol) of catechol and 109.5 g (about 0.5 mol) of a 40% glyoxylic acid aqueous solution under a nitrogen atmosphere under cooling with ice, and heated to 40° C. for 5 hours. The reaction solution was adjusted to pH 2.0 with 6 N hydrochloric acid under cooling with ice, and unreacted catechol was extracted with ethyl acetate. The water layer was evaporated to dryness under reduced pressure. The residue was dissolved in 700 ml of N,N-dimethylformamide and 276 g (2 mol) of potassium carbonate, 10 g (60 mmol) of potassium iodide and 230 ml (2 mol) of benzylchloride were added thereto. The mixture was stirred for 15 hours at room temperature and further stirred for 8 hours at 40° C. The reaction solution was poured into 1.5 l of ice water and extracted with ethyl acetate, followed by washing with water and a saturated sodium chloride aqueous solution. The extract was dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain crude benzyl 3,4-dibenzyloxymandelate. 1 liter of methanol and 200 ml of an aqueous solution containing 60 g of sodium hydroxide were added to the residue and stirred for 5 hours at room temperature. The reaction solution was concentrated under reduced pressure, and 1 liter of ice water was added to the residue. The solution was adjusted to pH 2.0 with conc hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The precipitated crystals were washed with isopropyl ether to obtain 83 g (yield: 45.5%) of 3,4-dibenzyloxymandelic acid.

reactant | sodium hydroxide | 1.2 mol, 48 g | [OH-].[Na+]
reactant | catechol | 0.8 mol, 88 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | glyoxylic acid | C(C=O)(=O)O | C2H2O3
reactant | hydrochloric acid | 6 N | Cl | ClH
reactant | potassium carbonate | 2 mol, 276 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 60 mmol, 10 g | [I-].[K+]
reactant | benzylchloride | 2 mol, 230 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
product | benzyl 3,4-dibenzyloxymandelate | C(C1=CC=CC=C1)OC=1C=C(C(C(=O)OCC2=CC=CC=C2)O)C=CC1OCC1=CC=CC=C1 | C29H26O5
